US07737136B2
trans-N-(7-Acetyl-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (Structure 47 of Scheme XII)
(1-Ethoxyvinyl)tributyl tin (90 μl, 0.23 mmol) was added to a solution of trans-N-(7-bromo-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (100 mg, 0.23 mmol) and PdCl2(PPh3)2 (3 mg, 4.3 μmol) in toluene (6 mL) under N2. The reaction mixture was heated to 140° C. and stirred for 3 h. After cooling to room temperature, 2N (aq) HCl (450 ul) was added and the reaction mixture was stirred for 1 h. The reaction was quenched with sat NaHCO3 (aq) and extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and evaporated. The crude compound was chromatographed with heptane/ethyl acetate 1:1. Purifcation by HPLC gave the title compound (43 mg, 47%). Data: 1H-NMR (400 MHz, DMSO) 1.60-2.09 (m, 4H), 3.21 (t, J=11.2, 1H), 3.90 (d, J=14.0, 1H), 4.16 (d, J=10.4, 1H), 4.44 (m, 1H), 7.04-7.54 (m, 10H), 9.20 (d, J=10.0, 1H). (m/z)=405 (M+H)+.

reactant | (1-Ethoxyvinyl)tributyl tin | 0.23 mmol, 90 μl | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | trans-N-(7-bromo-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.23 mmol, 100 mg | BrC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16BrF3N2O2
reactant | HCl | 2N, 450 ul | Cl | ClH
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 4.3 μmol, 3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | trans-N-(7-Acetyl-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 43 mg, 47% | C(C)(=O)C1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C21H19F3N2O3
